US08530477B2
4-Bromophenol (2 g, 11.5 mmol) is placed in 10 ml of anhydrous DMF under nitrogen. Sodium hydride (0.51 g, 127 mmol) is added. After stirring for 20 min at ambient temperature, 2-fluoropyridine (1.05 ml, 12.1 mmol) is added and the reaction medium is heated at 105° C. for 7 h. After hydrolysis, the pH is adjusted to 8 with a 1N aqueous solution of HCl. The reaction medium is then extracted with ethyl acetate. The organic phase is washed with a saturated aqueous sodium chloride solution, dried over MgSO4 and concentrated to dryness. The crude product obtained is chromatographed on silica gel, elution being carried out with a gradient of ethyl acetate in heptane ranging from 0% to 30%. 2.22 g of expected 2-(4-bromo-phenoxy)pyridine are obtained,

reactant | 4-Bromophenol | 11.5 mmol, 2 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | Sodium hydride | 127 mmol, 0.51 g | [H-].[Na+]
reactant | 2-fluoropyridine | 12.1 mmol, 1.05 ml | FC1=NC=CC=C1 | C5H4FN
reactant | HCl | Cl | ClH
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-(4-bromo-phenoxy)pyridine | 2.22 g | BrC1=CC=C(OC2=NC=CC=C2)C=C1 | C11H8BrNO
